US07572820B2
1-({5-[3,5-Bis(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-4-chloro-2-(difluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 39 from 4-chloro-2-(difluoromethyl)-1H-indole-5-carbonitrile and 5-[3,5-bis(trifluoromethyl)phenyl]-3-(chloromethyl)-1,2,4-oxadiazole: MS (ESI) m/z 519 (M−1).

reactant | 4-chloro-2-(difluoromethyl)-1H-indole-5-carbonitrile | ClC1=C2C=C(NC2=CC=C1C#N)C(F)F | C10H5ClF2N2
reactant | 5-[3,5-bis(trifluoromethyl)phenyl]-3-(chloromethyl)-1,2,4-oxadiazole | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NC(=NO1)CCl)(F)F | C11H5ClF6N2O
product | 1-({5-[3,5-Bis(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-4-chloro-2-(difluoromethyl)-1H-indole-5-carbonitrile | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NC(=NO1)CN1C(=CC2=C(C(=CC=C12)C#N)Cl)C(F)F)(F)F | C21H9ClF8N4O
